US09315495B2
The compound was synthesized as in Example 3.1 using 5-bromothiophene-2-carbaldehyde (250 mg, 1.31 mmol) in place of 5-bromo-2-formylfuran and 2-cyclohexylethylboronic acid (337 mg, 2.16 mmol) in place of hexylboronic acid to give 5-(2-cyclohexylethyl)thiophene-2-carbaldehyde (168 mg, 58%). Used without further characterization.

reactant | 5-bromothiophene-2-carbaldehyde | 1.31 mmol, 250 mg | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | 2-cyclohexylethylboronic acid | 2.16 mmol, 337 mg | C1(CCCCC1)CCB(O)O | C8H17BO2
product | 5-(2-cyclohexylethyl)thiophene-2-carbaldehyde | 168 mg, 58% | C1(CCCCC1)CCC1=CC=C(S1)C=O | C13H18OS
